US03966801
A mixture of 0.2 moles of sodium dithioacetate and 0.12 moles of ethyl α-chloro-γ-(2'-chloro-4-biphenylyl)butyrate in 300 ml. of absolute ethanol is stirred at room temperature for 15 hours. The reaction mixture is filtered, washed with absolute ethanol and evaporated to dryness in vacuo. The residue is treated with ether, filtered and evaporated to obtain ethyl α-thioacetylthio-γ-(2'-chloro-4-biphenylyl)butyrate.

reactant | sodium dithioacetate | 0.2 moles | C(C)(=S)[S-].[Na+]
reactant | ethyl α-chloro-γ-(2'-chloro-4-biphenylyl)butyrate | 0.12 moles | ClC(C(=O)OCC)CCC1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C18H18Cl2O2
solvent | ethanol | C(C)O | C2H6O
product | ethyl α-thioacetylthio-γ-(2'-chloro-4-biphenylyl)butyrate | C(C)(=S)SC(C(=O)OCC)CCC1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C20H21ClO2S2
